US09382228B2
A solution of 2,2,2-trimethylacetamide (0.071 g, 0.703 mmol) in DCE (3 mL) was treated with oxalyl chloride (0.062 mL, 0.703 mmol), stirred at RT for 1 h, then heated at 75° C. for 2 h. The mixture was cooled to RT, treated with a solution of 6-methyl-5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine (0.1 g, 0.352 mmol) and TEA (0.146 mL, 1.055 mmol) in THF (3 mL) and stirred at RT for 1 h. The mixture was treated with water, extracted with DCM (2×) and the combined organics were washed with brine, dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (MeOH/EtOAc) to afford N-((6-methyl-5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide (122 mg, 84%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.17 (s, 1H), 10.45 (br s, 1H), 9.13 (s, 1H), 8.61 (s, 1H), 8.42 (d, J=5.8 Hz, 1H), 7.92 (s, 1H), 7.66-7.65 (m, 2H), 6.75 (dd, J=5.8, 2.4 Hz, 1H), 2.27 (s, 3H), 1.21 (s, 9H); MS (ESI) m/z: 412.2 (M+H+).

reactant | 2,2,2-trimethylacetamide | 0.703 mmol, 0.071 g | CC(C(=O)N)(C)C | C5H11NO
reactant | oxalyl chloride | 0.703 mmol, 0.062 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-methyl-5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine | 0.352 mmol, 0.1 g | CC1=C(C=CC(=N1)N)OC1=CC(=NC=C1)C1=CN=CS1 | C14H12N4OS
reactant | water | O | H2O
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-((6-methyl-5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide | 122 mg, 84% | CC1=C(C=CC(=N1)NC(=O)NC(C(C)(C)C)=O)OC1=CC(=NC=C1)C1=CN=CS1 | C20H21N5O3S
